US07361672B2
61.1 To a stirred mixture of 2.8 g 3-amino-1,2,4-triazole in 50 ml DMF, 1.57 g NaH were slowly added at 0° C. under an argon atmosphere. After 1 hr stirring at 0° C., 3.31 ml ethyliodoacetate were added. The reaction mixture was stirred at r.t. over night. The mixture was diluted with water and extracted with EtOAc and CH2Cl2/MeOH 9:1. The organic phase was dried (MgSO4), filtered and concentrated. The crude product was purified by chromatography on silica, using a gradient from CH2Cl2 to CH2Cl2/MeOH 9:1 and then crystallization from cyclohexane/EtOAc to give 750 mg (3-amino-[1,2,4]triazol-1-yl)-acetic acid ethyl ester as a white solid.

reactant | 3-amino-1,2,4-triazole | 2.8 g | NC1=NNC=N1 | C2H4N4
reactant | NaH | 1.57 g | [H-].[Na+]
reactant | ethyliodoacetate | 3.31 ml | C(C)OC(CI)=O | C4H7IO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (3-amino-[1,2,4]triazol-1-yl)-acetic acid ethyl ester | 750 mg | C(C)OC(CN1N=C(N=C1)N)=O | C6H10N4O2
